US04723016
The procedure of Example 1 was followed using ~95% pure 4-carbomethoxyperfluoro-2-methyl-3-oxapentanoyl fluoride (12.5 g, 39 mmol), potassium trimethylsilanolate (10 g, 78 mmol), and dry ether (300 mL). Dipotassium perfluoro-2,4-dimethyl-3-oxa-1,5-pentanedioate (14.6 g, 98% yield) was isolated as a white solid: 19F NMR (D2O) δ -78.8 (m, CF3, 6F), -124.1 (m, CF, 1F), -130.3 ppm (m, CF, 1F). Anal. Calcd. for C6F8K2O5 : C, 18.85; F, 39.76; K, 20.46. Found: C, 17.45; F, 37.65, 37.53; K, 21.50, 21.30.

reactant | 4-carbomethoxyperfluoro-2-methyl-3-oxapentanoyl fluoride | 39 mmol, 12.5 g | C(=O)(OC)C(OC(C(=O)F)(C(F)(F)F)F)(C(F)(F)F)F | C7H3F9O4
reactant | potassium trimethylsilanolate | 78 mmol, 10 g | C[Si]([O-])(C)C.[K+]
solvent | ether | 300 mL | CCOCC | C4H10O
product | Dipotassium perfluoro-2,4-dimethyl-3-oxa-1,5-pentanedioate | 14.6 g, 98% yield | FC(C(=O)[O-])(OC(C(=O)[O-])(C(F)(F)F)F)C(F)(F)F.[K+].[K+] | InChI=1S/C6H2F8O5.2K/c7-3(1(15)16,5(9,10)11)19-4(8,2(17)18)6(12,13)14;;/h(H,15,16)(H,17,18);;/q;2*+1/p-2
